US06699887B2
A mixture of 1.1 g of 5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazole-4-carbaldehyde and 0.53 g of sodium borohydride in 25 ml of anhydrous methanol was stirred under nitrogen at room temperature for 15 minutes. Water (25 ml) was added and the mixture was extracted three times with 20 ml of diethyl ether. The combined extracts were dried over magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using ethyl acetate/petroleum ether (bp 40-60° C.) (1:3) for the elution to give 902 mg of [5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazol-4-yl]-methanol as a yellow oil. Mass spectrum (ES) m/z 317 [M+H]+.

reactant | 5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazole-4-carbaldehyde | 1.1 g | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1CC)C)C=O | C13H12Cl2N2OS
reactant | sodium borohydride | 0.53 g | [BH4-].[Na+]
reactant | Water | 25 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | [5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazol-4-yl]-methanol | 902 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1CC)C)CO | C13H14Cl2N2OS
